US07618982B2
Into a stirred solution of 3-fluoropyridine (14 g, 144.2 mmol) in anhydrous THF (150 mL), cooled to −78° C. and under argon, 79.2 mL (158.6 mmol) of a 2N solution of lithiumdiisopropylamide (LDA) in n-heptane, THF, ethylbenzene, were slowly dropped in about 1 h. After stirring for 2.5 h a cooled solution (ca. 0° C.) of acetaldehyde (8.9 mL, 158.5 mmol) in 25 mL of anhydrous THF was slowly dropped and the reaction mixture was stirred at −78° C. for 1.5 h. The solution was warmed to −30° C. and a solution of ammonium chloride (150 g) in 700 mL of water was added. The mixture was extracted with ethylacetate (3×400 mL) and the organic layers were washed with brine (4×200 mL) and dried over sodium sulfate. After concentration, the oil was crystallized with n-hexane (40 mL) and 15.6 g (76% yield) of 1-(3-fluoropyridin-4-yl)ethanol were obtained. A mixture of 1-(3-fluoropyridin-4-yl)ethanol (10 g, 70.3 mmol) and commercial activated MnO2 (8 g, 92.1 mmol) in toluene (100 mL) were refluxed until disappearance of starting material. After cooling, the mixture was filtered on a bed of celite, the cake washed with toluene and the organic phases concentrated to give 3-fluoro-4-acetyl pyridine (6.9 g, 70%) that was used directly in the next step. To a stirred solution of 3-fluoro-4-acetylpyridine (5.3 g, 38.1 mmol) in glacial acetic acid (14 mL) and 48% hydrobromic acid (5.3 mL), bromine (2 mL, 38 mmol) in glacial acetic acid (5.3 mL) was added slowly and dropwise. After addition, the solution was stirred at 60° C. for 2.5 hour. This solution was cooled down and ethylacetate (70 mL) was added. After 30 minutes of stirring, the mixture was filtered and the solid was washed thoroughly with ethylacetate and dried. The title compound was obtained in 82% yield (9.4 g).

reactant | 3-fluoropyridine | 144.2 mmol, 14 g | FC=1C=NC=CC1 | C5H4FN
reactant | lithiumdiisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | acetaldehyde | 158.5 mmol, 8.9 mL | C(C)=O | C2H4O
reactant | ammonium chloride | 150 g | [Cl-].[NH4+]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | n-heptane | CCCCCCC | C7H16
solvent | ethylbenzene | C(C)C1=CC=CC=C1 | C8H10
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | 700 mL | O | H2O
product | 1-(3-fluoropyridin-4-yl)ethanol | 15.6 g, 76% yield | FC=1C=NC=CC1C(C)O | C7H8FNO
